US05374656
Following a procedure analogous to that described in Example 1, but using 4.8 g of 1-methylcyclopentyl 2-anilinoacetate, 4.1 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 1.4 cm3 of thionyl chloride as starting materials, 0.6 g of 1-methylcyclopentyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate melting at 160° C. is obtained after recrystallization from an acetonitrile/diisopropyl ether mixture (40/60 by volume).

reactant | 1-methylcyclopentyl 2-anilinoacetate | 4.8 g | N(C1=CC=CC=C1)CC(=O)OC1(CCCC1)C | C14H19NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 4.1 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 1.4 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 1-methylcyclopentyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 0.6 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OC1(CCCC1)C)=O | C24H29N3O4
